US05883106
C. (2SR,4RS)-4-Cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran
To a stirred solution of triisopropylsilanethiol (Tetrahedron Lett. 1994, 35, 3221.; 684 mg, 3.6 mmol) in toluene (5 ml) was added sodium hydride (60% oil dispersion, 144 mg, 3.6 mmol) under a nitrogen atmosphere. After stirring for 15 min, the resulting solution was added to a mixture of (2SR, 4RS)-4-cyano-4-(3-iodophenyl)-2-methyl-3,4,5,6-tetrahydro-2H-pyran (1.07 g, 3.27 mmol) and tetrakis(triphenylphosphine)palladium(0) (114 mg, 0.1 mmol) in toluene (20 ml), and the mixture was heated at 80° C. for 1 h. The resulting mixture was cooled, poured into water (50 ml) and extracted with Et2O (100 ml). The organic extract was washed with water (50 ml), brine (50 ml), dried (MgSO4) and concentrated. Purification by silica gel column chromatography, eluting with ethyl acetate-hexane (1:9), gave 1.23 g (96%) of the titled compound as a red oil.

reactant | triisopropylsilanethiol | 3.6 mmol, 684 mg | C(C)(C)[Si](S)(C(C)C)C(C)C | C9H22SSi
reactant | sodium hydride | 3.6 mmol, 144 mg | [H-].[Na+]
reactant | (2SR, 4RS)-4-cyano-4-(3-iodophenyl)-2-methyl-3,4,5,6-tetrahydro-2H-pyran | 3.27 mmol, 1.07 g | C(#N)C1(CC(OCC1)C)C1=CC(=CC=C1)I | C13H14INO
reactant | water | 50 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 114 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2SR,4RS)-4-Cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | 1.23 g, 96% | C(#N)C1(CC(OCC1)C)C1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C22H35NOSSi
